US06414148B1
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (957 mg, 3 mmol), (prepared as described for the starting material in Example 2), 1-bromo-3-chloropropane (2.36 g, 15 mmol) and potassium carbonate (2.1 g, 15 mmol) in DMF (20 ml) was heated at 40° C. for 1.5 hours. The mixture was allowed to cool, was diluted with water and extracted with ethyl acetate (3×50 ml). The organic extracts were combined, washed with water and brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was triturated with hexanelethyl acetate, collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluoroaniiino)-7-(3-chloropropoxy)-6-methoxyquinazoline (650 mg, 55%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 3 mmol, 957 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 1-bromo-3-chloropropane | 15 mmol, 2.36 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-chloro-2-fluoroaniiino)-7-(3-chloropropoxy)-6-methoxyquinazoline | 650 mg, 55% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCCl)C=C1)F | C18H16Cl2FN3O2
